US08895582B2
To a suspension of 6-fluoro-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid in methanol (500 mL) was added SOCl2 (50 mL). The reaction mixture was then refluxed for 1 h until LC-MS indicated the completion of the reaction. The mixture was concentrated, and the resulting residue was dissolved in a mixture of EtOAc (1 L) and sat. sodium bicarbonate solution (500 mL). The organic layer was separated, washed with water and brine, dried over Na2SO4, and concentrated under reduced pressure to give 6-fluoro-1,2,3,4-tetrahydro-isoquinoline-3-carboxylic acid methyl ester as an oil (92 g). LRMS (M+H+) m/z 210.1.

reactant | 6-fluoro-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid | FC=1C=C2CC(NCC2=CC1)C(=O)O | C10H10FNO2
reactant | SOCl2 | 50 mL | O=S(Cl)Cl | Cl2OS
reactant | methanol | 500 mL | CO | CH4O
product | 6-fluoro-1,2,3,4-tetrahydro-isoquinoline-3-carboxylic acid methyl ester | 92 g | COC(=O)C1NCC2=CC=C(C=C2C1)F | C11H12FNO2
